US07732604B2
To a solution of 1-quinolin-6-yl-ethanone oxime (4.54 g, 24.4 mmol) in EtOH (50 mL) was added methanol solution of NH3 (7N, 12 mL, 80 mmol). A slurry of Raney Nickel (washed 3× with EtOH) about 2 g was added followed by a hydrogen-filled balloon. The reaction was stirred at ambient temperature for 16 hours under hydrogen-filled balloon. The reaction mixture was filtered over a pad of celite and the mother liquor was concentrated to give quantitative 1-quinolin-6-yl-ethylamine (4.1 g).

reactant | 1-quinolin-6-yl-ethanone oxime | 24.4 mmol, 4.54 g | N1=CC=CC2=CC(=CC=C12)C(C)=NO | C11H10N2O
reactant | methanol | CO | CH4O
reactant | NH3 | 80 mmol, 7N, 12 mL | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Raney Nickel | about 2 g | [Ni] | Ni
product | 1-quinolin-6-yl-ethylamine | 4.1 g | N1=CC=CC2=CC(=CC=C12)C(C)N | C11H12N2
